US06716851B2
4-Methyl-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide
A mixture of 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (20 mg, 0.058 mmol) and p-toluoyl chloride in pyridine (5 ml) was stirred at room temperature for 15 h. Then water was added to the mixture. The resulting precipitate was filtered, washed with excess water and dried to give a tan solid (26 mg, 94%). 1H NMR (CDCl3): 8.77 (dd, J=1.8, 4.5 Hz, 2H), 8.29 (dd, J=1.8, 4.5 Hz, 2H), 8.00 (s, 1H), 7.83 (s, 1H), 7.78 (d, J=8.1 Hz, 2H), 7.38 (dd, J=2.1, 8.4 Hz, 1H), 7.34 (s, 1H), 7.31 (d, J=7.5 Hz, 2H), 7.01 (s, 1H), 6.73 (s, 1H), 2.44 (s, 3H), 2.29 (s, 3H).

reactant | 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.058 mmol, 20 mg | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide | 26 mg, 94% | CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C1 | C25H20F3N5O
